US04110533
(ai) A suspension of 4.85 g of 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester in 25 ml of carbon tetrachloride and 27 ml of water is treated, at 20°, whilst stirring vigorously, successively with 3.0 g of potassium bicarbonate, 3.8 ml of dimethyl sulphate and 1.93 g of tetrabutylammonium bromide. The mixture is stirred vigorously for 4 hours at 20°. After diluting with 50 ml of water, the mixture is extracted with twice 50 ml of methylene chloride. 7β-Phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester is obtained by evaporating the extracts, previously dried over sulphate, and crystallising the residue from methylene chloride/diethyl ether.

reactant | 7β-phenoxyacetamido-3-hydroxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | 4.85 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)O)C=C1 | C22H19N3O8S
reactant | potassium bicarbonate | 3.0 g | C([O-])(O)=O.[K+]
reactant | dimethyl sulphate | 3.8 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | 27 ml | O | H2O
catalyst | tetrabutylammonium bromide | 1.93 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
product | 7β-Phenoxyacetamido-3-methoxy-3-cephem-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OC)C=C1 | C23H21N3O8S
